US05345330
A fine-powder crystal of 2-ethyl-3-(2-furyl)acrylic acid anhydride was prepared from 2-ethyl-3-(2-furyl)acrylic acid in the same manner as in Example 1. Then, the fine-powder crystal was dissolved in acetone and the acetone was evaporated by circulating an argon gas in the same manner as in Example 1 to form a single crystal of 2-ethyl-3-(2-furyl)acrylic acid anhydride having a size of 5×2×1.5 mm. The single crystal was fixed on a goniohead and irradiated with Nd:YAG laser light (wavelength; 1064 nm). The output of the second harmonic wave in green was very low.

reactant | 2-ethyl-3-(2-furyl)acrylic acid | C(C)C(C(=O)O)=CC=1OC=CC1 | C9H10O3
solvent | acetone | CC(=O)C | C3H6O
product | 2-ethyl-3-(2-furyl)acrylic acid anhydride | C(C)C(C(=O)OC(C(=CC=1OC=CC1)CC)=O)=CC=1OC=CC1 | C18H18O5
